* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.041682e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.643658e-01)*u*u + (2.580917e+00)*u + (1.305256e+01)),1.907251e+01),7.940053e+01)}
.param L_a = {min(max(exp((1.393098e-01)*u*u + (2.082905e+00)*u + (-4.757026e+00)),3.900361e-06),1.703986e-05)}
.param R_pl = {min(max(exp((1.061180e-13)*u*u + (1.971232e-12)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.247485e-04)*u*u + (3.321476e-03)*u + (2.187068e-02),5.252294e-04),2.915640e-03)}
.param G1 = {min(max((1.496455e-04)*u*u + (2.198286e-03)*u + (5.845173e-03),-2.101577e-03),-4.127924e-04)}
.param w1 = {min(max(exp((6.774447e-02)*u*u + (1.217917e+00)*u + (2.060137e+01)),3.694981e+06),4.682991e+06)}
.param G2 = {min(max((-2.986479e-05)*u*u + (-5.170721e-04)*u + (-2.234185e-03),-1.364579e-04),6.788952e-07)}
.param w2 = {min(max(exp((-1.367374e+00)*u*u + (-2.367441e+01)*u + (-8.157002e+01)),1.985868e+06),1.005000e+09)}
.param G3 = {min(max((2.327503e-05)*u*u + (4.029786e-04)*u + (1.741205e-03),-5.290949e-07),1.063481e-04)}
.param w3 = {min(max(exp((-5.848925e-01)*u*u + (-1.012669e+01)*u + (-2.303255e+01)),6.965664e+07),1.005000e+09)}
.param pcb0 = {min(max((-1.358206e-05)*u*u + (-2.351567e-04)*u + (-1.016074e-03),-6.205903e-05),3.087514e-07)}
.param pcb1 = {min(max((-4.065468e-13)*u*u + (-7.038857e-12)*u + (-3.041377e-11),-1.857590e-12),9.241741e-15)}
.param pcw0 = {min(max(exp((1.045177e+00)*u*u + (1.809596e+01)*u + (9.038923e+01)),1.977032e+05),2.312333e+07)}
.param pcq = {min(max(exp((1.636026e-01)*u*u + (2.832577e+00)*u + (1.223911e+01)),9.950249e-01),2.114461e+00)}
.param gnw = {min(max(exp((-7.431720e-02)*u*u + (-1.586748e+00)*u + (-1.790445e+01)),5.215731e-05),8.017180e-05)}
.param gn1 = {min(max(exp((-1.688486e-01)*u*u + (-2.668740e+00)*u + (-1.048020e+01)),2.524074e-01),1.045132e+00)}
.param gn2 = {min(max(exp((-1.657550e-01)*u*u + (-2.618480e+00)*u + (-1.154797e+01)),7.235876e-02),2.929741e-01)}
.param gn3 = {min(max(exp((-1.767895e-01)*u*u + (-2.798771e+00)*u + (-1.334000e+01)),2.330177e-02),1.019332e-01)}
.param gn4 = {min(max(exp((-1.600885e-01)*u*u + (-2.527126e+00)*u + (-1.289142e+01)),1.364157e-02),5.291819e-02)}
.param gn5 = {min(max(exp((1.210141e-01)*u*u + (2.231676e+00)*u + (-1.182264e+00)),1.042614e-05),1.427960e-05)}
.param gn6 = {min(max(exp((-4.603772e-02)*u*u + (-7.843187e-01)*u + (-1.915124e+01)),1.060239e-07),1.363461e-07)}
.param vreg = {min(max((2.154300e-04)*u*u + (2.705220e-03)*u + (9.110421e-01),9.034068e-01),9.070100e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-1.067717e+01)*vddc*vddc*vddc*vddc + (4.852084e+01)*vddc*vddc*vddc + (-8.241570e+01)*vddc*vddc + (6.201388e+01)*vddc + (-1.653997e+01) - (9.020703e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=1.223630e-10 ESR=1.167405e+02    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-6.288516e-03,1.000000e-06,-2.019732e-03,1.300000e-05,-8.223457e-04,2.500000e-05,-4.945569e-05,3.700000e-05,5.412823e-04,4.900000e-05,1.030527e-03,6.100000e-05,1.455197e-03,7.300000e-05,1.835343e-03,8.500000e-05,2.183112e-03,9.700000e-05,2.506444e-03,1.090000e-04,2.810836e-03,1.210000e-04,3.100255e-03,1.330000e-04,3.377667e-03,1.450000e-04,3.645350e-03,1.570000e-04,3.905092e-03,1.690000e-04,4.158320e-03,1.810000e-04,4.406194e-03,1.930000e-04,4.649665e-03,2.050000e-04,4.889524e-03,2.170000e-04,5.126432e-03,2.290000e-04,5.360950e-03,2.410000e-04,5.593552e-03,2.530000e-04,5.824648e-03,2.650000e-04,6.054588e-03,2.770000e-04,6.283677e-03,2.890000e-04,6.512183e-03,3.010000e-04,6.740339e-03,3.130000e-04,6.968351e-03,3.250000e-04,7.196403e-03,3.370000e-04,7.424658e-03,3.490000e-04,7.653264e-03,3.610000e-04,7.882353e-03,3.730000e-04,8.112047e-03,3.850000e-04,8.342459e-03,3.970000e-04,8.573691e-03,4.090000e-04,8.805840e-03,4.210000e-04,9.038997e-03,4.330000e-04,9.273250e-03,4.450000e-04,9.508681e-03,4.570000e-04,9.745373e-03,4.690000e-04,9.983405e-03,4.810000e-04,1.022286e-02,4.930000e-04,1.038130e-02,5.010000e-04,1.078535e-02,5.210000e-04,1.119409e-02,5.410000e-04,1.160793e-02,5.610000e-04,1.202731e-02,5.810000e-04,1.245271e-02,6.010000e-04,1.288468e-02,6.210000e-04,1.332385e-02,6.410000e-04,1.377094e-02,6.610000e-04,1.422680e-02,6.810000e-04,1.469243e-02,7.010000e-04,1.516905e-02,7.210000e-04,1.565812e-02,7.410000e-04,1.616144e-02,7.610000e-04,1.668124e-02,7.810000e-04,1.722032e-02,8.010000e-04,1.778223e-02,8.210000e-04,1.837155e-02,8.410000e-04,1.899415e-02,8.610000e-04,1.965765e-02,8.810000e-04,2.037185e-02,9.010000e-04,2.114923e-02,9.210000e-04,2.200520e-02,9.410000e-04,2.295788e-02,9.610000e-04,2.402686e-02,9.810000e-04,2.523079e-02,1.001000e-03,2.658402e-02,1.021000e-03,2.809361e-02,1.041000e-03,2.975822e-02,1.061000e-03,3.156929e-02,1.081000e-03,3.351377e-02,1.101000e-03,3.557673e-02,1.121000e-03,3.774343e-02,1.141000e-03,4.000033e-02,1.161000e-03,4.233553e-02,1.181000e-03,4.473886e-02,1.201000e-03,4.720171e-02,1.221000e-03,4.971686e-02,1.241000e-03,5.227825e-02,1.261000e-03,5.488080e-02,1.281000e-03,5.752024e-02,1.301000e-03,6.019296e-02,1.321000e-03,6.289590e-02,1.341000e-03,6.562647e-02,1.361000e-03,6.838243e-02,1.381000e-03,7.116188e-02,1.401000e-03,7.396317e-02,1.421000e-03,7.678488e-02,1.441000e-03,7.962578e-02,1.461000e-03,8.248478e-02,1.481000e-03,8.536095e-02,1.501000e-03,8.825346e-02,1.521000e-03,9.116159e-02,1.541000e-03,9.408472e-02,1.561000e-03,9.702228e-02,1.581000e-03,9.997378e-02,1.601000e-03,1.029388e-01,1.621000e-03,1.059170e-01,1.641000e-03,1.089080e-01,1.661000e-03,1.119115e-01,1.681000e-03,1.149273e-01,1.701000e-03,1.179552e-01,1.721000e-03,1.209950e-01,1.741000e-03,1.240466e-01,1.761000e-03,1.271098e-01,1.781000e-03,1.301845e-01,1.801000e-03,1.332707e-01,1.821000e-03,1.363684e-01,1.841000e-03,1.394775e-01,1.861000e-03,1.425980e-01,1.881000e-03,1.457299e-01,1.901000e-03,1.488732e-01,1.921000e-03,1.520281e-01,1.941000e-03,1.551946e-01,1.961000e-03,1.583727e-01,1.981000e-03,1.615627e-01,2.001000e-03,1.647646e-01,2.021000e-03,1.679785e-01,2.041000e-03,1.712046e-01,2.061000e-03,1.744431e-01,2.081000e-03,1.776942e-01,2.101000e-03,1.809581e-01,2.121000e-03,1.842350e-01,2.141000e-03,1.875251e-01,2.161000e-03,1.908287e-01,2.181000e-03,1.941461e-01,2.201000e-03,1.974775e-01,2.221000e-03,2.008233e-01,2.241000e-03,2.041837e-01,2.261000e-03,2.075591e-01,2.281000e-03,2.109498e-01,2.301000e-03,2.143563e-01,2.321000e-03,2.177788e-01,2.341000e-03,2.212178e-01,2.361000e-03,2.246738e-01,2.381000e-03,2.281471e-01,2.401000e-03,2.316382e-01,2.421000e-03,2.351476e-01,2.441000e-03,2.386758e-01,2.461000e-03,2.422234e-01,2.481000e-03,2.457908e-01,2.501000e-03,2.493788e-01,2.521000e-03,2.529878e-01,2.541000e-03,2.566185e-01,2.561000e-03,2.602717e-01,2.581000e-03,2.639480e-01,2.601000e-03,2.676482e-01,2.621000e-03,2.713731e-01,2.641000e-03,2.751235e-01,2.661000e-03,2.789002e-01,2.681000e-03,2.827043e-01,2.701000e-03,2.865368e-01,2.721000e-03,2.903985e-01,2.741000e-03,2.942908e-01,2.761000e-03,2.982147e-01,2.781000e-03,3.021716e-01,2.801000e-03,3.061627e-01,2.821000e-03,3.101895e-01,2.841000e-03,3.142535e-01,2.861000e-03,3.183563e-01,2.881000e-03,3.224998e-01,2.901000e-03,3.266857e-01,2.921000e-03,3.309160e-01,2.941000e-03,3.351930e-01,2.961000e-03,3.395190e-01,2.981000e-03,3.438964e-01,3.001000e-03,3.483280e-01,3.021000e-03,3.528167e-01,3.041000e-03,3.573658e-01,3.061000e-03,3.619786e-01,3.081000e-03,3.666589e-01,3.101000e-03,3.714109e-01,3.121000e-03,3.762389e-01,3.141000e-03,3.811479e-01,3.161000e-03,3.861433e-01,3.181000e-03,3.912308e-01,3.201000e-03,3.964171e-01,3.221000e-03,4.017091e-01,3.241000e-03,4.071148e-01,3.261000e-03,4.126427e-01,3.281000e-03,4.183026e-01,3.301000e-03,4.241049e-01,3.321000e-03,4.300616e-01,3.341000e-03,4.362752e-01,3.361000e-03,4.425892e-01,3.381000e-03,4.491021e-01,3.401000e-03,4.558321e-01,3.421000e-03,4.627990e-01,3.441000e-03,4.700251e-01,3.461000e-03,4.775347e-01,3.481000e-03,4.853546e-01,3.501000e-03,4.935139e-01,3.521000e-03,5.020442e-01,3.541000e-03,5.109791e-01,3.561000e-03,5.203538e-01,3.581000e-03,5.302049e-01,3.601000e-03,5.405687e-01,3.621000e-03,5.514804e-01,3.641000e-03,5.629728e-01,3.661000e-03,5.750742e-01,3.681000e-03,5.878071e-01,3.701000e-03,6.011871e-01,3.721000e-03,6.152218e-01,3.741000e-03,6.299108e-01,3.761000e-03,6.452467e-01,3.781000e-03,6.612154e-01,3.801000e-03,6.777986e-01,3.821000e-03,6.949748e-01,3.841000e-03,7.127213e-01,3.861000e-03,7.310150e-01,3.881000e-03,7.498335e-01,3.901000e-03,7.691555e-01,3.921000e-03,7.889613e-01,3.941000e-03,8.092322e-01,3.961000e-03,8.299510e-01,3.981000e-03,8.511013e-01,4.001000e-03,8.726674e-01,4.021000e-03,8.946345e-01,4.041000e-03,9.169878e-01,4.061000e-03,9.397129e-01,4.081000e-03,9.627956e-01,4.101000e-03,9.862222e-01,4.121000e-03,1.009979e+00,4.141000e-03,1.034052e+00,4.161000e-03,1.058278e+00,4.181000e-03,1.082949e+00,4.201000e-03,1.107898e+00,4.221000e-03,1.133111e+00,4.241000e-03,1.158575e+00,4.261000e-03,1.184278e+00,4.281000e-03,1.210209e+00,4.301000e-03,1.236354e+00,4.321000e-03,1.262704e+00,4.341000e-03,1.289247e+00,4.361000e-03,1.315973e+00,4.381000e-03,1.342872e+00,4.401000e-03,1.369933e+00,4.421000e-03,1.397148e+00,4.441000e-03,1.424507e+00,4.461000e-03,1.452002e+00,4.481000e-03,1.479624e+00,4.501000e-03,1.507366e+00,4.521000e-03,1.535220e+00,4.541000e-03,1.563179e+00,4.561000e-03,1.591235e+00,4.581000e-03,1.619383e+00,4.601000e-03,1.647615e+00,4.621000e-03,1.675927e+00,4.641000e-03,1.704312e+00,4.661000e-03,1.732764e+00,4.681000e-03,1.761280e+00,4.701000e-03,1.789853e+00,4.721000e-03,1.818479e+00,4.741000e-03,1.847154e+00,4.761000e-03,1.875873e+00,4.781000e-03,1.904633e+00,4.801000e-03,1.933429e+00,4.821000e-03,1.962258e+00,4.841000e-03,1.991117e+00,4.861000e-03,2.020002e+00,4.881000e-03,2.048910e+00,4.901000e-03,2.077839e+00,4.921000e-03,2.106785e+00,4.941000e-03,2.135746e+00,4.961000e-03,2.164718e+00,4.981000e-03,2.193701e+00,5.001000e-03,2.222692e+00,5.021000e-03,2.251687e+00,5.041000e-03,2.280686e+00,5.061000e-03,2.309687e+00,5.081000e-03,2.338687e+00,5.101000e-03,2.367684e+00,5.121000e-03,2.396678e+00,5.141000e-03,2.425666e+00,5.161000e-03,2.454648e+00,5.181000e-03,2.483621e+00,5.201000e-03,2.512583e+00,5.221000e-03,2.541535e+00,5.241000e-03,2.570475e+00,5.261000e-03,2.599401e+00,5.281000e-03,2.628312e+00,5.301000e-03,2.657208e+00,5.321000e-03,2.686087e+00,5.341000e-03,2.714948e+00,5.361000e-03,2.743791e+00,5.381000e-03,2.772614e+00,5.401000e-03,2.801418e+00,5.421000e-03,2.830200e+00,5.441000e-03,2.858960e+00,5.461000e-03,2.887698e+00,5.481000e-03,2.916413e+00,5.501000e-03,2.945105e+00,5.521000e-03,2.973772e+00,5.541000e-03,3.002414e+00,5.561000e-03,3.031031e+00,5.581000e-03,3.059621e+00,5.601000e-03,3.088186e+00,5.621000e-03,3.116723e+00,5.641000e-03,3.145234e+00,5.661000e-03,3.173716e+00,5.681000e-03,3.202171e+00,5.701000e-03,3.230597e+00,5.721000e-03,3.258994e+00,5.741000e-03,3.287362e+00,5.761000e-03,3.315701e+00,5.781000e-03,3.344010e+00,5.801000e-03,3.372290e+00,5.821000e-03,3.400539e+00,5.841000e-03,3.428757e+00,5.861000e-03,3.456945e+00,5.881000e-03,3.485102e+00,5.901000e-03,3.513227e+00,5.921000e-03,3.541322e+00,5.941000e-03,3.569385e+00,5.961000e-03,3.597416e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 1.116157e-08        $ corner 14.26 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 1.115979e-09        $ corner 142.6 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 1.179775e-10        $ corner 1349 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 1.335171e-12        $ corner 1.192e+05 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 6.675854e-13        $ corner 2.384e+05 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 1.020034e-15        $ corner 1.56e+08 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

